US09416101B2
4-(chlorosulfonyl)benzoic acid (0.5 g, 2.27 mmol) was treated with N-methyl-4-(trifluoromethyl)aniline (1191 mg, 6.80 mmol) using method A to give 4-(N-methyl-N-(4-(trifluoromethyl)phenyl)sulfamoyl)benzoic acid as a white solid. Yield: 385 mg (47%). 1H-NMR: 8.11 (d, J=8.5 Hz, 2H), 7.74 (d, J=8.5 Hz, 2H), 7.66 (d, J=8.5 Hz, 2H), 7.39 (d, J=8.5 Hz, 2H), 3.21 (s, 3H).

reactant | 4-(chlorosulfonyl)benzoic acid | 2.27 mmol, 0.5 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | N-methyl-4-(trifluoromethyl)aniline | 6.80 mmol, 1191 mg | CNC1=CC=C(C=C1)C(F)(F)F | C8H8F3N
product | 4-(N-methyl-N-(4-(trifluoromethyl)phenyl)sulfamoyl)benzoic acid | CN(S(=O)(=O)C1=CC=C(C(=O)O)C=C1)C1=CC=C(C=C1)C(F)(F)F | C15H12F3NO4S
